** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/norgate/schematic/nor.sch
**.subckt nor vdd a b out vss
*.iopin vdd
*.iopin a
*.iopin vss
*.iopin out
*.iopin b
XM1 net1 a vdd vdd sg13_lv_pmos w=3.0u l=0.15u ng=1
XM2 out b vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
XM3 out a vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
XM4 out b net1 vdd sg13_lv_pmos w=3.0u l=0.15u ng=1
**.ends
.end
